US03953461
d. 7-sec.Butylamino-5-methylthiazolo[5,4-b]pyridine-6-carboxylic acid, ethyl ester
2.8 g. of 5-amino-4-sec.butylamino-6-mercapto-2-methylpyridine-3-carboxylic acid, ethyl ester are refluxed in 10 ml. of formic acid for 12 hours. After this time, the excess acid is removed in vacuo and the residue is dissolved in 10 ml. of water. The aqueous solution is made alkaline with sodium hydroxide and extracted twice, each time with 10 ml. of ether. The ether layer is collected, dried over calcium chloride and evaporated to dryness. The residue, 7-sec.butylamino-5-methylthiazolo[5,4-b]pyridine-6-carboxylic acid, ethyl ester is distilled in vacuo, b. p.0.01 180°-185°, yield 1.8 g. (62%).

reactant | 5-amino-4-sec.butylamino-6-mercapto-2-methylpyridine-3-carboxylic acid, ethyl ester | NC=1C(=C(C(=NC1S)C)C(=O)OCC)NC(C)CC | C13H21N3O2S
reactant | formic acid | C(=O)O | CH2O2
product | 7-sec.Butylamino-5-methylthiazolo[5,4-b]pyridine-6-carboxylic acid, ethyl ester | C(C)(CC)NC1=C2C(=NC(=C1C(=O)OCC)C)SC=N2 | C14H19N3O2S
